US05945425
2-[[(5-Chloro-1H-benzimidazol-2-yl)thio]-methyl]benzenamine
The title compound was prepared by the method of Example 1 using 2.50 g of 2-mercapto-5-chlorobenzimidazole instead of 2-mercaptobenzimidazole and 2.42 g of 2-(chloromethyl)aniline hydrochloride instead of 2-(chloromethyl)-N,N-dimethylaniline. The basic extraction used 5% sodium hydroxide instead of sodium carbonate. Washing the solid residue from the dichloromethane extract with additional dichloromethane gave 2.47 g of the title compound. Anal. Calc'd. for C14H12N3ClS: C, 58.03; H, 4.17; N, 14.10; S, 11.06; Cl, 12.23. Found: C, 57.33; H, 4.06; N, 14.27; S, 10.99; Cl, 12.74.

reactant | 2-mercapto-5-chlorobenzimidazole | 2.50 g | SC=1NC2=C(N1)C=CC(=C2)Cl | C7H5ClN2S
reactant | 2-(chloromethyl)aniline hydrochloride | 2.42 g | Cl.ClCC1=C(N)C=CC=C1
product | 2-[[(5-Chloro-1H-benzimidazol-2-yl)thio]-methyl]benzenamine | 2.47 g | ClC1=CC2=C(NC(=N2)SCC2=C(C=CC=C2)N)C=C1 | C14H12ClN3S
